US04098904
B. trans-N,N-Dimethyl-1,2-cyclohexanediamine
A solution of the benzylamino compound was hydrogenated in two batches each containing 30.5 g. (0.131 mole), 175 ml. EtOH, 3.4 g Pd-C and 56.5 g. (0.394 mole) of 70% HClO4, at initial pressure of 51.5 p.s.i. for 19 hours. The two batches were combined, filtered through Celite and evaporated in vacuo at 45°. The residue was cooled in ice, basified with 40% KOH to pH 11. The resulting thick suspension was extracted with ether (5 × 200 ml), the ether extract was dried (MgSO4) and evaporated through a 9 inches Vigreux. The residue was distilled at 13 mm to give 32.5 g. (87% yield), b.p. 77°-78.5°. Vpc 100% at 3.8 mm. ir and nmr was identical to those of the sample prepared by the reaction of 7-azabicyclo[3.1.0]heptane with dimethylamine.

reactant | dimethylamine | CNC | C2H7N
reactant | EtOH | CCO | C2H6O
catalyst | Pd-C | 3.4 g | [Pd] | Pd
product | trans-N,N-Dimethyl-1,2-cyclohexanediamine | CN([C@H]1[C@@H](CCCC1)N)C | C8H18N2
